// File: nmos_top_trim2.spi
// Created: Fri Feb 20 10:22:08 2026
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// 
simulator lang=spectre
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/nmos_top_trim2.pex.spice"
subckt nmos_top_trim2 (  )
// 
M0_noxref ( noxref_1 noxref_3 noxref_2 noxref_5 ) NMOS l=0.163129 w=2.31397 m=1
c_3 ( noxref_1 0 ) capacitor c=0.00700155f //x=0.43 //y=0.54
c_6 ( noxref_2 0 ) capacitor c=0.167706f //x=0 //y=0
c_9 ( noxref_3 0 ) capacitor c=0.2279f //x=0.62 //y=0.965
// 
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/nmos_top_trim2.pxi.spice"
// 
ends NMOS_TOP_TRIM2
// 
// 
